### PR TITLE
[Merged by Bors] - feat(RingTheory/NonUnitalSubsemiring): add Aesop rules for `-(x * y)` subsemiring membership

### PR DESCRIPTION
**Pull request by artie2000**
The Aesop rule `mul_mem` doesn't decompose goals of the form `-x * y ∈ s` or `x * -y ∈ s` in the absence of `neg_mem` because these expressions simplify to `-(x * y) ∈ s`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
I think your PR description should probably also be a comment in the file.

**Comment by YaelDillies** [comment]
Also your title should be about `-(x * y)`, no? It got me confused for a minute.

**Comment by artie2000** [comment]
> Also your title should be about `-(x * y)`, no? It got me confused for a minute.

Well the point is it's for `-x * y` *because* the simp-normal form is `-(x * y)`.
Like, that's the motivation - a `mul_mem` variant.

**Comment by artie2000** [comment]
Anyway, @YaelDillies @eric-wieser I made the requested changes and updated the PR description

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 1]
```diff
@@ -85,6 +85,17 @@ instance toNonUnitalCommSemiring {R} [NonUnitalCommSemiring R] [SetLike S R]
...
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem` because `-x * y` simplifies to `-(x * y)`. -/
+theorem neg_mul_mem [HasDistribNeg R] {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
+
+variable {s} in
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem` because `x * -y` simplifies to `-(x * y)`. -/
+theorem mul_neg_mem [HasDistribNeg R] {x y : R} (hx : x ∈ s) (hy : -y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Could you add an `example` along the lines of `-(w * x * y * z) ∈ s` with `-y ∈ s` to prove that Aesop works here?

**Review by eric-wieser — COMMENTED** [review]
I think this might be a place where it's more appropriate to use aesop's forward reasoning; maybe @JLimperg has an opinion

**Comment by artie2000** [comment]
@eric-wieser I don't understand, sorry. This rule only adds 2 possible branches that each fail quickly; in that respect it's a lot more provability-preserving than much of the existing SetLike ruleset.

**Comment by eric-wieser** [comment]
My point is that a request in the same direction would be to add a lemma that says `a * b + a * c ∈ s` if `a` and `b + c` are; though I guess that's not quite the example i was hoping for since `mul_add` is not simp.

**Comment by artie2000** [comment]
@eric-wieser the intent of these lemmas is strictly to cover a case of `mul_mem` where the goal is not in simp-normal form. I understand what you mean but I don't intend to add that sort of rule - the pattern is to run Aesop on the "obvious" membership goal `a * (b + c)` and then use `ring`, `linear_combination` etc to proceed.

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 2]
```diff
@@ -87,16 +87,21 @@ instance toNonUnitalCommSemiring {R} [NonUnitalCommSemiring R] [SetLike S R]
...
 variable {s} in
 @[aesop unsafe 80% (rule_sets := [SetLike])]
-/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem` because `x * -y` simplifies to `-(x * y)`. -/
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem`
+because `x * -y` simplifies to `-(x * y)`. -/
 theorem mul_neg_mem [HasDistribNeg R] {x y : R} (hx : x ∈ s) (hy : -y ∈ s) : -(x * y) ∈ s := by
   simpa using mul_mem hx hy
 
+example [HasDistribNeg R] {x y z : R} (hx : x ∈ s) (hy : -y ∈ s) (hz : z ∈ s) :
+    x * -y * z ∈ s := by aesop
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]:
```suggestion
    x * (-y) * z ∈ s := by aesop
```
for clarity

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 3]
```diff
@@ -87,16 +87,21 @@ instance toNonUnitalCommSemiring {R} [NonUnitalCommSemiring R] [SetLike S R]
 
 variable {s} in
 @[aesop unsafe 80% (rule_sets := [SetLike])]
-/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem` because `-x * y` simplifies to `-(x * y)`. -/
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem`
+because `-x * y` simplifies to `-(x * y)`. -/
 theorem neg_mul_mem [HasDistribNeg R] {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Shouldn't this be for `MulMemClass` or similar instead?

Comment (eric-wieser) [reply Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Yeah, this proof works for just `MulMemClass` and `Mul`, it doesn't need the `NonUnitalSubsemiringClass`

Comment (artie2000) [reply Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Yep good point. Needs to go after the `mul_neg` and `neg_mul` simp lemmas, though (otherwise `mul_mem` works).
These are in `Algebra.Ring.Defs` - I can move there?

Comment (artie2000) [reply Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Ah never mind this is the minimal file with all the right prereqs

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 4]
```diff
@@ -19,6 +19,27 @@ assert_not_exists RelIso
...
+theorem neg_mul_mem {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
+
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem`
+because `x * -y` simplifies to `-(x * y)`. -/
+theorem mul_neg_mem {x y : R} (hx : x ∈ s) (hy : -y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
+
+example {x y z : R} (hx : x ∈ s) (hy : -y ∈ s) (hz : z ∈ s) :
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean:39]:
```suggestion
-- doesn't work without the above `aesop` lemmas
example {x y z : R} (hx : x ∈ s) (hy : -y ∈ s) (hz : z ∈ s) :
```

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 5]
```diff
@@ -19,6 +19,28 @@ assert_not_exists RelIso
 
 universe u v w
 
+section neg_mul
+
+variable {R S : Type*} [Mul R] [HasDistribNeg R] [SetLike S R] [MulMemClass S R] {s : S}
+
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem`
```
Comment (Vierkantor) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Typo:
```suggestion
/- The Aesop rule `mul_mem` doesn't work in the absence of `neg_mem`
```

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 6]
```diff
@@ -19,6 +19,28 @@ assert_not_exists RelIso
...
+because `-x * y` simplifies to `-(x * y)`. -/
+theorem neg_mul_mem {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
+
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absense of `neg_mem`
```
Comment (Vierkantor) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]:
```suggestion
/- The Aesop rule `mul_mem` doesn't work in the absence of `neg_mem`
```

**Comment by Vierkantor** [comment]
@eric-wieser, anything else that needs to be done in this PR?

**Comment by eric-wieser** [comment]
> @eric-wieser, anything else that needs to be done in this PR?

I was hoping to get some input from @JLimperg on whether this is the best way to hook these up to Aesop, but if Jannis doesn't have much time then I don't think we should block on this. I figured that pings on an open PR were more likely to be effective than on a closed one!

**Comment by artie2000** [comment]
I don't know how I got you assigned in the first place, was probably a misclick sorry!

File: Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean [hunk 7]
```diff
@@ -19,6 +19,28 @@ assert_not_exists RelIso
...
+
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absence of `neg_mem`
+because `-x * y` simplifies to `-(x * y)`. -/
+theorem neg_mul_mem {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
+  simpa using mul_mem hx hy
+
+@[aesop unsafe 80% (rule_sets := [SetLike])]
+/- The Aesop rule `mul_mem` doesn't work in the absence of `neg_mem`
+because `x * -y` simplifies to `-(x * y)`. -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/NonUnitalSubsemiring/Defs.lean]: Let's make this a docstring, and phrase it in a way that explains why the lemma exists:
```suggestion
/-- This lemma exists for `aesop`, as it simplifies `-x * y` to `-(x * y)` before applying unsafe rules like `mul_mem`,
and this would be a dead end in cases where `neg_mem` does not hold. -/
@[aesop unsafe 80% (rule_sets := [SetLike])]
theorem neg_mul_mem {x y : R} (hx : -x ∈ s) (hy : y ∈ s) : -(x * y) ∈ s := by
  simpa using mul_mem hx hy
```
(same below, and sorry for any long lines in this suggestion)

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks! It looks like @JLimperg has no time to opine here, so let's wait no longer.

**Comment by artie2000** [comment]
I don't understand the error :(

**Comment by Vierkantor** [comment]
That build error in "Verify everything is in the cache" is not your fault, and should go away after updating to the newest Lean releases. So let's try merging this again!

bors r+
